US07288537B2
A solution of 3-(4-Chloro-benzoyl)-azetidine-1-carboxylic acid tert-butyl ester (62.5 g, 210 mmol) in ethanol (1000 ml) cooled to 10° C. is treated with sodium borohydride (9.5 g, 250 mmol). The reaction mixture is allowed to warm to room temperature and stirred for 2 hours. The reaction mixture is added to water and the precipitate collected by filtration, and dried under vacuum to afford 3-[(4-Chloro-phenyl)-hydroxy-methyl]-azetidine-1-carboxylic acid tert-butyl ester. Mpt 123-125° C.

reactant | 3-(4-Chloro-benzoyl)-azetidine-1-carboxylic acid tert-butyl ester | 210 mmol, 62.5 g | C(C)(C)(C)OC(=O)N1CC(C1)C(C1=CC=C(C=C1)Cl)=O | C15H18ClNO3
reactant | sodium borohydride | 250 mmol, 9.5 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 3-[(4-Chloro-phenyl)-hydroxy-methyl]-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)C(O)C1=CC=C(C=C1)Cl | C15H20ClNO3
